US06025506
(1S,2R)-N-Methyl,N-i-propyl-1-amino-2-indanyl chloroacetate
2.00 grams (17.5 mmol) of chloroacetyl chloride was added drop by drop, in 5 minutes, to a solution of 3.00 grams (14.6 mmol) of (1S,2R)-N-methyl,N-i-propyl-1-amino-2-indanol in 40 ml of dichloromethane at room temperature. The temperature increased to 35° C. The reaction was stirred for 15 hours at room temperature. This was followed by the addition of 50 ml of a 5% K2CO3 solution in water and extraction. The basic water layer was once again extracted using 30 ml of dichloromethane. After the collected organic layers had been washed with water, dried using Na2SO4 and evaporated, 3.96 grams (85%) of product was isolated as a yellow oil. 1H NMR (200 MHz, CDCl3): 1.05 (2*d, 6H), 2.09 (s, 3H), 2.96 (dd, J=8.6 and 3.5 Hz +septet, 2H), 3.14 (dd, J=8.6 and 3.5 Hz, 1H), 3.99 (s, 2H), 4.47 (d, J=3,1 Hz, 1H), 5.47 (dt, J=3,1 and 3.5 Hz, 1H) and 7.10-7.25 (m, 4H). 13C NMR (50.31 MHz, CDCl3): 20.59 (q), 33.00 (q), 37.06 (t), 41.10 (t), 53.61 (d), 66.08 (d), 78.47 (d), 124.84 (d), 125.81 (d), 126.62 (d), 127.61 (d), 138.96 (s), 140.46 (s) and 166.85 (s).

reactant | chloroacetyl chloride | 17.5 mmol, 2.00 grams | ClCC(=O)Cl | C2H2Cl2O
reactant | (1S,2R)-N-methyl,N-i-propyl-1-amino-2-indanol | 14.6 mmol, 3.00 grams | CN([C@@H]1[C@@H](CC2=CC=CC=C12)O)C(C)C | C13H19NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (1S,2R)-N-Methyl,N-i-propyl-1-amino-2-indanyl chloroacetate | 3.96 grams, 85% | ClCC(=O)O[C@H]1[C@H](C2=CC=CC=C2C1)N(C(C)C)C | C15H20ClNO2
